US08114868B2
Step 1: 3-(4-Bromo-2,6-dimethyl-benzyl)-6-(2-methyl-allyl)-6-phenyl-[1,3]oxazinan-2-one
The title compound was prepared from 1-chloro-5-methyl-3-phenyl-hex-5-en-3-ol and 5-bromo-2-isocyanatomethyl-1,3-dimethyl-benzene following a procedure analogous to that described in Step 1 of Example 96. LC-MS (Method 5): tR=4.95 min; Mass spectrum (ESI+): m/z=428/430 (Br) [M+H]+.

reactant | 1-chloro-5-methyl-3-phenyl-hex-5-en-3-ol | ClCCC(CC(=C)C)(O)C1=CC=CC=C1 | C13H17ClO
reactant | 5-bromo-2-isocyanatomethyl-1,3-dimethyl-benzene | BrC=1C=C(C(=C(C1)C)CN=C=O)C | C10H10BrNO
product | 3-(4-Bromo-2,6-dimethyl-benzyl)-6-(2-methyl-allyl)-6-phenyl-[1,3]oxazinan-2-one | BrC1=CC(=C(CN2C(OC(CC2)(C2=CC=CC=C2)CC(=C)C)=O)C(=C1)C)C | C23H26BrNO2
